US08202866B2
(E)-[2-(3-{4-[1-(4-Bromo-phenylcarbamoyl)-3-(tert-butyl-dimethyl-silanyloxy)-propyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester
To a solution of (E)-2-{4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid (2.5 g, 4.52 mmol), EDCI (1.2 g, 4.97 mmol) and HOBt (671 mg, 4.97 mol) in CH2Cl2 (50 mL) was added 4-bromo-phenylamine (786 mg, 4.57 mmol). This mixture was stirred overnight at room temperature and then diluted with CH2Cl2 (50 mL), washed with saturated aqueous NaHCO3 solution, water and brine, dried with Na2SO4, and evaporated to obtain a yellow residue. MS: calc'd 708 (MH+), exp 708 (MH+).

reactant | (E)-2-{4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid | 4.52 mmol, 2.5 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)/C=C/C1=CC=C(C=C1)C(C(=O)O)CCO[Si](C)(C)C(C)(C)C | C30H42N2O6Si
reactant | EDCI | 4.97 mmol, 1.2 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 4.97 mol, 671 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-bromo-phenylamine | 4.57 mmol, 786 mg | BrC1=CC=C(C=C1)N | C6H6BrN
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (E)-[2-(3-{4-[1-(4-Bromo-phenylcarbamoyl)-3-(tert-butyl-dimethyl-silanyloxy)-propyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CC=C(C=C1)C(CCO[Si](C)(C)C(C)(C)C)C(NC1=CC=C(C=C1)Br)=O)=O)=O | C36H46BrN3O5Si
